US07696223B2
c) {[4-Hydroxy-1-(2-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
Prepared in analogy to that of Example 1(e) from 1-(2-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 356 (M+H)+.

reactant | 1-(2-methoxy-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)CC2=C(C=CC=C2)OC)O | C18H18N2O4
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | {[4-Hydroxy-1-(2-methoxy-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | OC1=C2C(=CN=C1C(=O)NCC(=O)O)N(C=C2)CC2=C(C=CC=C2)OC | C18H17N3O5
